US05232624
2,3-Difluorohydroquinone monobenzyl ether (prepared from 2,3-difluorophenol by the Elbs reaction, benzylation of the sulfate obtained as an intermediate, and acid cleavage of the sulfate) is reacted with DEAD/PPh3 and optically active ethyl lactate. The protecting group is subsequently removed hydrogenolytically. At 0° C., 0.01 mol of the compound obtained in this way and 0.01 mol of 4'-heptyloxybiphenyl-4-carboxylic acid are reacted dropwise with 0.01 mol of DCC dissolved in methylene chloride, with exclusion of moisture in methylene chloride in the presence of a catalytic amount of DMAP [sic]. The mixture is stirred at room temperature for 12 hours, the dicyclohexylurea which precipitates is removed by filtration, and the filtrate is worked up in a customary manner. The product is purified by chromatography, to give ethyl 2-[2,3-difluoro-4-(p-(p-heptyloxyphenyl)benzoyloxy)phenoxy]propionate.

reactant | 2,3-Difluorohydroquinone monobenzyl ether | FC1(C(O)C=CC(=C1F)O)C1=CC=CC=C1COCC1=CC=CC=C1C1(C(O)C=CC(=C1F)O)F | C26H22F4O5
reactant | 2,3-difluorophenol | FC1=C(C=CC=C1F)O | C6H4F2O
reactant | sulfate | S(=O)(=O)([O-])[O-]
reactant | DEAD PPh3 | CCOC(=O)/N=N/C(=O)OCC.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3
reactant | ethyl lactate | C(C(O)C)(=O)OCC | C5H10O3
product | 4'-heptyloxybiphenyl-4-carboxylic acid | 0.01 mol | C(CCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C20H24O3
